US05859007
N-(4-Fluoro-phenyl)-2-[3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-acetamide
To 890 mg (1.3 mmol) of crude 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-fluoro-phenyl)-N-isopropyl-acetamide, prepared as in Intermediate 58, is added 10 mL of 4N HCl in dioxane at RT. The resulting solution is stirred 4 h and 100 mL of Et2O is added. The precipitate is filtered and purified by RP-HPLC (50-60% acetonitrile/ H2O over 30 min) to afford 86.7 mg of the title compound: 1H NMR (CDCl3, 300 MHz) δ7.85 (d, 1H, J=8.2), 7.43-7.09 (m, 15H), 6.96 (d, 1H, J=8.3), 5.01 (m, 1H), 4.98 (m, 2H), 3.82 (m, 2H), 1.05 (m, 6H); low resolution MS (FAB) m/e 576 (MH+); RP-HPLC Tr =5.5 min (40-60% acetonitrile/ H2O).

reactant | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-fluoro-phenyl)-N-isopropyl-acetamide | 1.3 mmol, 890 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C(C)C)C1=CC=C(C=C1)F)C=CC=C2)C2=CC=CC=C2)=O | C39H38FN5O5
reactant | HCl | 4N, 10 mL | Cl | ClH
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(4-Fluoro-phenyl)-2-[3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-acetamide | 86.7 mg | FC1=CC=C(C=C1)N(C(CN1C2=C(N(C(C(C1=O)CC1=NNC3=CC=CC=C13)=O)C1=CC=CC=C1)C=CC=C2)=O)C(C)C | C34H30FN5O3
